US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with pyridine-4-carboxaldehyde in an analogous manner to that described in Example 1 to give 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(4-pyridyl)-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a pale yellow crystalline solid of melting point 218-219° C. (decomposition).

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | pyridine-4-carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(4-pyridyl)-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC=NC=C1)=O)C | C22H26N2O2
